US06521643B1
To a suspension of N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)thiourea (1.23 g) in N,N-dimethylformamide were added a solution of hydrogen chloride in 1,4-dioxane (4N, 2.56 ml) and iodoethane (1.86 ml), and the mixture was stirred at 70° C. for 4 hours. Ethyl acetate (100 ml) was added to the mixture, and the mixture was cooled. The precipitate was collected by filtration and purified by column chromatography (silica gel, triethylamine:methanol:dichloromethane=1:5:100) to give N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-S-ethylisothiourea (1.14 g).

reactant | N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)thiourea | 1.23 g | CC=1N=C(SC1C1=NC=CC(=C1)C)NC(=S)N | C11H12N4S2
reactant | hydrogen chloride | Cl | ClH
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | 1,4-dioxane | 4N, 2.56 ml | O1CCOCC1 | C4H8O2
solvent | iodoethane | 1.86 ml | ICC | C2H5I
product | N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-S-ethylisothiourea | 1.14 g | CC=1N=C(SC1C1=NC=CC(=C1)C)NC(SCC)=N | C13H16N4S2
